US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-chlorobenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 2-chlorobenzoyl chloride in a similar manner as described above to give a white solid (30% yield). 1H-NMR (DMSO-d6): δ 10.98 (s, 1H), 8.89 (d, 1H), 7.54 (dd, 2H), 7.48-7.44 (m, 1H), 7.42 (dd, 1H), 7.40-7.34 (m, 1H), 7.28 (d, 1H), 7.13 (dd, 1H), 5.26 (m, 1H), 2.60 (m, 2H), 2.08-1.91 (m, 2H), 1.90-1.73 (m, 2H); MS m/z 403 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2-chlorobenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=C(C=CC=C1)Cl)=O | C19H16BrClN2O
